US04910191
Other compounds can be prepared by starting with 19-hydroxyprogesterone. This is converted to the corresponding trifluoromethanesulfonate ester and the sulfonate is displaced with potassium ethyl xanthogenate. Hydrolysis of the resulting xanthogenate then gives the desired 19-mercaptopregn-4-ene-3,20-dione. This 19-mercapto compound can then be reacted with the appropriate acid halide or anhydride to give the corresponding ester.

reactant | 19-hydroxyprogesterone | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34CO)C | C21H30O3
reactant | potassium ethyl xanthogenate | CCOC(=S)[S-].[K+]
product | 19-mercaptopregn-4-ene-3,20-dione | SC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CC[C@H](C(C)=O)[C@]3(CC[C@H]21)C)=O | C21H30O2S
